US05559113
3-(1H-Imidazol-4-yl)propyl N-benzylcarbamate
The preparation is carried out as in Example 23 with 3-(1H-imidazol-4-yl)propanol hydrochloride and 5 mmol of triethylamine. The residual oil is taken up in a small amount of water. The title compound is crystallized in the hydrogenmaleate form from ethanol/diethyl ether.

reactant | 3-(1H-imidazol-4-yl)propanol hydrochloride | Cl.N1C=NC(=C1)CCCO
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
product | 3-(1H-Imidazol-4-yl)propyl N-benzylcarbamate | C(C1=CC=CC=C1)NC(OCCCC=1N=CNC1)=O | C14H17N3O2
